US07989461B2
To a solution of 2-tert-butyl-3-hydroxy-5-methylisoindolin-1-one (10.54 g, 48.1 mmol) in AcOH (250 ml) charged to a 500 mL round bottom and stirred at 80° C., hydrazine hydrate (3.51 ml, 72.1 mmol) was added. The reaction mixture was stirred at 80° C. for 90 min. The reaction mixture was then cooled and diluted with water and extracted with 4 L DCM. The organics were washed with brine, dried over magnesium sulfate and concentrated under vacuum to give 6-methylphthalazin-1(2H)-one. MS (M+H)+ 161.

reactant | 2-tert-butyl-3-hydroxy-5-methylisoindolin-1-one | 48.1 mmol, 10.54 g | C(C)(C)(C)N1C(C2=CC=C(C=C2C1O)C)=O | C13H17NO2
reactant | hydrazine hydrate | 72.1 mmol, 3.51 ml | O.NN
solvent | AcOH | 250 ml | CC(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-methylphthalazin-1(2H)-one | CC=1C=C2C=NNC(C2=CC1)=O | C9H8N2O
